US07759379B2
3-nitro-4-(trifluormethoxy)-aniline
20 g (112.9 mmol) 4-(trifluormethoxy)-aniline were dissolved in to 50ml conc. sulfuric acid and treated at −5° C. with a mixture of 24 ml conc. sulfuric acid and 6 ml nitric acid. After stirring the mixture at 0° C. for 3 h, the reaction mixture was poured on 1 L ice water and made alkaline with 200 ml conc. aqueous ammonium hydroxide. The resulting solution was extracted with ethyl acetate, the combined organic phases were dried and evaporated to dryness. The residue was purified by flash chromoatography (Silica gel, methylene chloride:methanol=98: 2) and subsequent recrystallization from methylenchoride/heptane. Yield: 14.8 g

reactant | 4-(trifluormethoxy)-aniline | 112.9 mmol, 20 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | nitric acid | 6 ml | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
solvent | sulfuric acid | 50ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 24 ml | S(O)(O)(=O)=O | H2O4S
product | 3-nitro-4-(trifluormethoxy)-aniline | [N+](=O)([O-])C=1C=C(N)C=CC1OC(F)(F)F | C7H5F3N2O3
